US05137909
2-(1-methylindol-2-yl)thio-2-phenylpropanol
A solution (20 ml) of ethyl 2-(1-methylindol-2-yl)thio-2-phenylpropionate (3 g) in anhydrous tetrahydrofuran was added dropwise to a suspension (75 ml) of lithium aluminum hydride (670 mg) in anhydrous tetrahydrofuran, and the mixture was heated and refluxed for 2 hours. The reaction solution was allowed to cool, and was poured into ice water. The mixture was acidified by adding 6N hydrochloric acid, and was extracted with ethyl acetate. The organic layer was washed with water and a saturated aqueous sodium chloride solution, and was dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The resulting residue was recrystallized from ligroin to give 1.84 g (yield: 70 %) of the product compound as a pale yellow powder. The melting point was 118°-119° C.

reactant | ethyl 2-(1-methylindol-2-yl)thio-2-phenylpropionate | 20 ml, 3 g | CN1C(=CC2=CC=CC=C12)SC(C(=O)OCC)(C)C1=CC=CC=C1 | C20H21NO2S
reactant | lithium aluminum hydride | 75 ml, 670 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-(1-methylindol-2-yl)thio-2-phenylpropanol | 1.84 g, yield: 70 % | CN1C(=CC2=CC=CC=C12)SC(CO)(C)C1=CC=CC=C1 | C18H19NOS
